US04935430
(e) 1-(4-Cyanophenyl)-2,4,6-trimethylimidazo[4,5-c]pyridine
A mixture of 3-amino-4-(4-cyanophenyl)amino-2,6-dimethylpyridine (4.20 g, 17.6 mmol), acetic anhydride (12.6 ml) and acetic acid (12.6 ml) was stirred at 100° C. for 16 hours. The excess of reagents was removed under reduced pressure, and the residual gum was dissolved in water and the solution was rendered basic by the addition of concentrated aqueous ammonia. The white solid which precipitate was filtered off and dried in vacuo to give the title compound (4.06 g, 88%), mp 260°-262° C.

reactant | 3-amino-4-(4-cyanophenyl)amino-2,6-dimethylpyridine | 17.6 mmol, 4.20 g | NC=1C(=NC(=CC1NC1=CC=C(C=C1)C#N)C)C | C14H14N4
reactant | acetic anhydride | 12.6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 12.6 ml | C(C)(=O)O | C2H4O2
product | 1-(4-Cyanophenyl)-2,4,6-trimethylimidazo[4,5-c]pyridine | 4.06 g, 88% | C(#N)C1=CC=C(C=C1)N1C(=NC=2C(=NC(=CC21)C)C)C | C16H14N4
